US09402850B2
1-(4-Chloro-benzyl)-3-(2-nitro-fluoren-9-ylidenemethyl)-1H-indole (CYD-2-21)
To a solution of 2-nitrofluorene (250 mg, 1.18 mmol) in 20 mL of methanol was added 1-(4-Chloro-benzyl)-1H-indole-3-carbaldehyde (382 mg, 1.42 mmol) and KF—Al2O3 (189 mg, 1.18 mmol). The resulting mixture was stirred at 85° C. for 18 hrs. After that, TLC showed that 2-nitrofluorene was gone, and many solids were suspended in MeOH. 260 mg of CYD-2-21 was obtained as a yellow solid after filtration and recrystallization from CH2Cl2. One isomer: 1H-NMR (600 MHz, d6-DMSO) δ 8.96 (s, 1H), 8.41 (s, 1H), 8.27 (m, 2H), 8.18 (m, 3H), 8.09 (d, 1H, J=7.2 Hz), 7.78 (d, 1H, J=7.8 Hz), 7.62 (d, 1H, J=7.8 Hz), 7.47 (m, 5H), 7.28 (t, 1H, J=7.2 Hz), 7.20 (t, 1H, J=7.2 Hz), 5.57 (s, 2H). Another isomer: 1H-NMR (600 MHz, d6-DMSO) δ 9.01 (s, 1H), 8.39 (s, 1H), 8.33 (s, 1H), 8.19 (m, 4H), 7.86 (d, 1H, J=8.4 Hz), 7.78 (d, 1H, J=7.8 Hz), 7.62 (d, 1H, J=7.8 Hz), 7.47 (m, 5H), 7.28 (t, 1H, J=7.2 Hz), 7.20 (t, 1H, J=7.2 Hz), 5.59 (s, 2H). 13C-NMR (150 MHz, d6-DMSO) δ 147.1, 146.6, 145.6, 142.9, 141.9, 141.0, 138.2, 138.0, 137.0, 136.8, 136.7, 136.4 (2C), 135.6, 132.7, 132.2, 132.1, 130.2, 129.9, 129.8, 129.7, 129.2, 129.1, 129.0 (2C), 128.4, 128.1 (2C), 127.9, 124.5, 124.1, 123.8, 123.2 (2C), 123.1, 122.4, 122.0, 121.7, 121.2, 121.0 (2C), 120.8, 120.6 (2C), 120.2, 118.8, 118.7, 116.2 (2C), 111.5, 111.4, 111.3 (2C), 49.4, 49.2.

reactant | 2-nitrofluorene | 1.18 mmol, 250 mg | [N+](=O)([O-])C1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9NO2
reactant | 1-(4-Chloro-benzyl)-1H-indole-3-carbaldehyde | 1.42 mmol, 382 mg | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C=O)C=C1 | C16H12ClNO
solvent | methanol | 20 mL | CO | CH4O
product | 1-(4-Chloro-benzyl)-3-(2-nitro-fluoren-9-ylidenemethyl)-1H-indole | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C=C2C3=CC=CC=C3C=3C=CC(=CC23)[N+](=O)[O-])C=C1 | C29H19ClN2O2
